US05495020
To anhydrous dichloromethane (170 ml) are added 2,4,5-trifluoro-3-methylaniline (16.89 g) and dimethyl sulfide (11 ml). Thereto N-chlorosuccinimide (17.2 g) is added gradually below 5° C. After stirring for 30 minutes, triethylamine (21 ml) is added dropwise and the mixture is refluxed over night. After the mixture is cooled and made alkaline with 5% aqueous sodium hydroxide solution, the resultant is extracted with dichloromethane, and the extract is washed with water and dried. The solvent is distilled off under reduced pressure and the residue is purified by silica-gel column-chromatography (dichloromethane : n-hexane =1 : 1) to give 2,4,5-trifluoro-3-methyl-6-methylthiomethylaniline (8.3 g).

reactant | 2,4,5-trifluoro-3-methylaniline | 16.89 g | FC1=C(N)C=C(C(=C1C)F)F | C7H6F3N
reactant | dimethyl sulfide | 11 ml | CSC | C2H6S
reactant | N-chlorosuccinimide | 17.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 170 ml | ClCCl | CH2Cl2
product | 2,4,5-trifluoro-3-methyl-6-methylthiomethylaniline | 8.3 g | FC1=C(N)C(=C(C(=C1C)F)F)CSC | C9H10F3NS
